US07208629B2
Methyl 6′-methyl-3′-[(propylamino)carbonyl]-1,1′-biphenyl-4-carboxylate (216 mg, 0.7 mmol) in methanol (4 ml) was mixed with aqueous sodium hydroxide (2N, 1 ml) and stirred at room temperature for 2 h. The methanol was evaporated, the reaction diluted with water (4 ml) and extracted with chloroform (2×5 ml). The aqueous was acidified with hydrochloric acid (2N, 2 ml) and extracted with chloroform (2×6 ml). Both sets of organic extracts were combined in methanol (4 ml) and stirred with aqueous sodium hydroxide (2N, 2 ml) for 3 h. The methanol was evaporated, the reaction diluted with water (4 ml) and washed with chloroform (2×5 ml). The aqueous was acidified with hydrochloric acid (2N, 2 ml) and extracted with chloroform (2×6 ml). The solvent was evaporated from the organic extracts to give 6′-methyl-3′-[(propylamino)carbonyl]-1,1′-biphenyl-4-carboxylic acid (121 mg). NMR: δH CDCl3 8.13, (2H, d), 7.69, (1H, dd), 7.62, (1H, d), 7.41, (2H, d), 7.35, (1H, d), 3.42, (2H, t), 2.30, (3H, s), 1.64, (2H, m), 0.99, (3H, t).

reactant | Methyl 6′-methyl-3′-[(propylamino)carbonyl]-1,1′-biphenyl-4-carboxylate | 0.7 mmol, 216 mg | CC1=CC=C(C=C1C1=CC=C(C=C1)C(=O)OC)C(=O)NCCC | C19H21NO3
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 6′-methyl-3′-[(propylamino)carbonyl]-1,1′-biphenyl-4-carboxylic acid | 121 mg | CC1=CC=C(C=C1C1=CC=C(C=C1)C(=O)O)C(=O)NCCC | C18H19NO3
